US05811456
Example 3: Preparation of the compound (I-a3): Benzaldehyde acetyl(2-hydroxyethyl)hydrazone
0.78 g (10-2 moles) of acetyl chloride is added dropwise to a solution containing 10-2 moles of benzaldehyde (2-hydroxyethyl)hydrazone and 0.79 g (10-2 moles) of anhydrous pyridine in 20 ml of anhydrous ethyl acetate, with stirring in the cold.

reactant | acetyl chloride | 10-2 moles, 0.78 g | C(C)(=O)Cl | C2H3ClO
reactant | benzaldehyde (2-hydroxyethyl)hydrazone | 10-2 moles | OCCNN=CC1=CC=CC=C1 | C9H12N2O
reactant | pyridine | 10-2 moles, 0.79 g | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | Benzaldehyde acetyl(2-hydroxyethyl)hydrazone | C(C)(=O)N(N=CC1=CC=CC=C1)CCO | C11H14N2O2
